US07888352B2
1-(4-((2-(2-aminopyrimidin-5-yl)-4-morpholinothieno[3,2-d]pyrimidin-6-yl)methyl)piperazin-1-yl)-2-(dimethylamino)ethanone
The HCl salt of 5-(4-morpholino-6-((piperazin-1-yl)methyl)thieno[3,2-d]pyrimidin-2-yl)pyrimidin-2-amine (100 mg) was reacted with N,N-dimethylglycine via General Procedure B to generate 38.3 mg of 105. MS (Q1) 498.3 (M)+.

reactant | HCl | Cl | ClH
reactant | 5-(4-morpholino-6-((piperazin-1-yl)methyl)thieno[3,2-d]pyrimidin-2-yl)pyrimidin-2-amine | 100 mg | O1CCN(CC1)C=1C2=C(N=C(N1)C=1C=NC(=NC1)N)C=C(S2)CN2CCNCC2 | C19H24N8OS
reactant | N,N-dimethylglycine | CN(CC(=O)O)C | C4H9NO2
product | 1-(4-((2-(2-aminopyrimidin-5-yl)-4-morpholinothieno[3,2-d]pyrimidin-6-yl)methyl)piperazin-1-yl)-2-(dimethylamino)ethanone | NC1=NC=C(C=N1)C=1N=C(C2=C(N1)C=C(S2)CN2CCN(CC2)C(CN(C)C)=O)N2CCOCC2 | C23H31N9O2S
